US05707544
A solution of 0.6 g of 2,5-bis[4-(6-acryloyloxyhexyloxy)phenylcarboxy]benzoic acid, 0.4 g of (4-[4-(4-nitrophenylazo)benzoyloxy]phenoxy)ethanol and 0.04 g of 4-dimethylaminopyridine is reacted with 0.2 g of N,N'-dicyclohexyldicarbodiimide and 20 ml of dichloromethane in an analogous manner to Example 1 to give (4-[4-(4-nitrophenylazo)benzoyloxy]phenoxy)ethyl 2,5-bis[4-(6-acryloyloxyhexyloxy)phenylcarboxy]benzoate.

reactant | 2,5-bis[4-(6-acryloyloxyhexyloxy)phenylcarboxy]benzoic acid | 0.6 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)OC(=O)C1=C(C(=O)O)C=C(C=C1)C(=O)OC1=CC=C(C=C1)OCCCCCCOC(C=C)=O | C39H42O12
reactant | (4-[4-(4-nitrophenylazo)benzoyloxy]phenoxy)ethanol | 0.4 g | [N+](=O)([O-])C1=CC=C(C=C1)N=NC1=CC=C(C(=O)OC2=CC=C(OC(C)O)C=C2)C=C1 | C21H17N3O6
catalyst | 4-dimethylaminopyridine | 0.04 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (4-[4-(4-nitrophenylazo)benzoyloxy]phenoxy)ethyl 2,5-bis[4-(6-acryloyloxyhexyloxy)phenylcarboxy]benzoate | C(C=C)(=O)OCCCCCCOC1=CC=C(C=C1)OC(=O)C1=C(C(=O)OCCOC2=CC=C(C=C2)OC(C2=CC=C(C=C2)N=NC2=CC=C(C=C2)[N+](=O)[O-])=O)C=C(C=C1)C(=O)OC1=CC=C(C=C1)OCCCCCCOC(C=C)=O | C60H57N3O17
